US07691882B2
2-(5-(4-Fluoro-benzyl)-furan-2-yl)-[1,3]dioxolane
To a tetrahydrofuran (50 mL) solution of 2-(1,3-dioxolan-2-yl-furan (5 g, 35.7 mmol) was added n-butyl lithium (15.6 mL, 2.64 M hexane solution, 41.1 mmol) at −78° C., which was stirred for 1 hour at that temperature. A tetrahydrofuran solution of 4-fluorobenzyl bromide (6.9 g, 36.5 mmol) was added dropwise to this mixture, which was stirred for another hour at −78° C. The mixture was raised to room temperature and partitioned into ethyl acetate and a saturated ammonium chloride aqueous solution. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:10 to 1:3) to obtain the title compound (4.51 g, 51%).

reactant | 1,3-dioxolan-2-yl-furan | 35.7 mmol, 5 g | O1C(OCC1)C=1OC=CC1 | C7H8O3
reactant | n-butyl lithium | 41.1 mmol, 2.64 M, 15.6 mL | C(CCC)[Li]
reactant | 4-fluorobenzyl bromide | 36.5 mmol, 6.9 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-(5-(4-Fluoro-benzyl)-furan-2-yl)-[1,3]dioxolane | 4.51 g, 51% | FC1=CC=C(CC2=CC=C(O2)C2OCCO2)C=C1 | C14H13FO3
